US05110955
A solution of 5 g (21.5 mmol) of 1-(3-butynyl)-3,6-dimethoxy-2,4,5-trimethylbenzene in 80 ml of THF was cooled to -78° C. and treated firstly with 13.4 ml of a 1.6M n-butyllithium solution and then with 2.2 g (23.3 mmol) of methyl chloroformate. The mixture was left at -78° C. for 1 hour, then warmed to -20° C., held at this temperature for 2 hours and finally poured into saturated ammonium chloride solution. Extraction with ethyl acetate yielded, after washing the extracts with water and drying over sodium sulphate, a yellow oil which was purified on silica gel (eluent: hexane/ethyl acetate 95:5→90:10). There were obtained 3.6 g of spontaneously crystallizing methyl 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-pentynoate. M.P. 71°-72° C.

reactant | 1-(3-butynyl)-3,6-dimethoxy-2,4,5-trimethylbenzene | 21.5 mmol, 5 g | C(CC#C)C1=C(C(=C(C(=C1OC)C)C)OC)C | C15H20O2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | methyl chloroformate | 23.3 mmol, 2.2 g | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | methyl 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-pentynoate | COC1=C(C(=C(C(=C1C)C)OC)C)CCC#CC(=O)OC | C17H22O4
